.SUBCKT LT1004 A K
*
* TWO-TERMINAL VOLTAGE REFERENCE
*
DFWD A K DF
GREV A K VALUE={LIMIT(20.00E-3*(EXP(V(A,K)/5.682E3)-1),-10M,0)}
RZ A 1 .102
GZ 2 1 VALUE={LIMIT(EXP(V(2,1)/198.0E-6),0,20.00E-3)}
EBV K 2 3 0 1
RBV 3 0 1.237E3 TC=1.139E-6 -346.8E-9
IBV 0 3 DC 1M
*
.MODEL DF D(IS=39.12E-15 RS=12.18 IKF=0 N=.9983 XTI=3)
.ENDS
