* C:\users\alumno\Desktop\DCE\simulaciones\500ma\modelo_1_1\modelo_1_2_discrete.asc
Q1 N014 N017 0 0 2N2222
Q2 N017 N017 0 0 2N2222
Q5 N003 N004 N005 0 BC547B
Q7 N004 N001 VCC 0 BC557B
Q8 N001 N001 VCC 0 BC557B
R1 VCC N017 1325
R2 N001 0 2650
Q9 N005 N003 VCC 0 2SA2210
V1 N011 0 1.2
V2 VCC 0 6
Q6 VCC vout N012 0 BC547B
R4 N012 N015 4k7
R3 N015 0 1k8
R5 0 0 2k2
R9 N005 vout 0.47
Q10 VCC N011 N014 0 2N2222
Q11 N004 verr N014 0 2N2222
R6 N009 vout 10k
R7 N006 N005 10k
R8 0 N006 47k
R10 N009 verr 47k
Q3 N008 N006 N013 0 2N2222
Q4 VCC N009 N013 0 2N2222
Q12 N010 N008 N007 0 BC557B
R11 VCC N007 10
R12 N010 0 10k
Q13 VCC N010 verr 0 BC547B
R13 verr 0 1k
Q14 N002 N002 VCC 0 BC557B
Q15 N008 N002 VCC 0 BC557B
R14 N002 0 2650
Q16 N013 N016 0 0 2N2222
Q17 N016 N016 0 0 2N2222
R15 VCC N016 1350
R16 vout 0 1.6
.model NPN NPN
.model PNP PNP
.lib C:\users\alumno\My Documents\LTspiceXVII\lib\cmp\standard.bjt
;op
.tran 100s
;dc i3 0.01 3 0.001
.lib 2SA2210-SPICE-D.LIB
.backanno
.end
