* C:\Users\lucas\Desktop\FIUBA\DCE\DCE\simulaciones\500ma\modelo_1_1\triangular.asc
XU2 N001 in Vcc 0 out level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 N002 2k7
R2 out N001 220k
V1 Vcc 0 6.35
V2 in 0 PULSE(0 6 0 1m 1m 1u 2m 5k)
Vref N002 0 3.3
D1 N004 0 QTLP690C
R3 N003 N004 1k
M1 Vcc out N003 N003 BSZ130N03LS
XU1 N005 in Vcc 0 out5 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N005 N006 1k
R5 out5 N005 10k
Vref1 N006 0 3.3
D2 N008 0 QTLP690C
R6 N007 N008 1k
M2 Vcc out5 N007 N007 FDS6961A
R7 N005 0 470
.model D D
.lib C:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10m 0
.lib UniversalOpAmp2.lib
.backanno
.end
